US04377522
12 g (0.035 mol) of 7-amino-9-chloro-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one are dissolved in 360 ml of dry tetrahydrofuran, treated with 10 g of ground sodium bicarbonate and 8 ml of chloroformic acid benzyl ester and stirred at room temperature for 31/2 hours. The mixture is treated with ethyl acetate and water, and separated aqueous phase is extracted twice with ethyl acetate and the combined organic extracts are dried and evaporated. The residue is chromatographed on 600 g of silica gel with methylene chloride/ethyl acetate (20:1 ) as the elution agent. From ether there is obtained benzyl 9-chloro-5-(o-fluorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepine-7-carbamate of melting point 212°.

reactant | 7-amino-9-chloro-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | 0.035 mol, 12 g | NC=1C=C(C2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1)Cl | C18H17ClFN3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroformic acid benzyl ester | 8 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 360 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | benzyl 9-chloro-5-(o-fluorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepine-7-carbamate | ClC1=CC(=CC=2C(=NC(C(N(C21)C)=O)(C)C)C2=C(C=CC=C2)F)NC(=O)OCC2=CC=CC=C2 | C26H23ClFN3O3
